US07276610B2
(3-{[2-(2-Isopropoxy-phenoxy)-ethylamino]-methyl}-phenyl)-piperidin-1-yl-methanone
[2-(2-Isopropoxy-phenoxy)-ethyl]-carbamic acid tert-butyl ester. To a solution of 2-isopropoxy-phenol (0.50 g, 3.3 mmol) in THF (5 mL) was added a suspension of polymer-supported PPh3 (2.2 g) and (2-hydroxy-ethyl)-carbamic acid tert-butyl ester (0.53 g, 3.3 mmol) in THF (2 mL). The mixture was cooled to 0° C., treated with di-tert-butyl azodicarboxylate (1.1 g, 4.9 mmol), and then allowed to warm to 25° C. over 18 h. The resulting mixture was filtered (diatomaceous earth), and the filtrate was concentrated under reduced pressure. The crude residue was purified by column chromatography (5-20% EtOAc/hexanes) to provide the desired product (0.75 g, 78%). 1H NMR (400 MHz, CDCl3): 6.97-6.88 (m, 4H), 4.49 (hept, J=6.1 Hz, 1H), 4.06 (t, J=5.1 Hz, 2H), 3.50-3.46 (m, 2H), 1.45 (s, 9H), 1.37 (d, J=6.1 Hz, 6H).

reactant | [2-(2-Isopropoxy-phenoxy)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCOC1=C(C=CC=C1)OC(C)C)=O | C16H25NO4
reactant | 2-isopropoxy-phenol | 3.3 mmol, 0.50 g | C(C)(C)OC1=C(C=CC=C1)O | C9H12O2
reactant | PPh3 | 2.2 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | (2-hydroxy-ethyl)-carbamic acid tert-butyl ester | 3.3 mmol, 0.53 g | C(C)(C)(C)OC(NCCO)=O | C7H15NO3
reactant | di-tert-butyl azodicarboxylate | 4.9 mmol, 1.1 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (3-{[2-(2-Isopropoxy-phenoxy)-ethylamino]-methyl}-phenyl)-piperidin-1-yl-methanone | 0.75 g, 78% | C(C)(C)OC1=C(OCCNCC=2C=C(C=CC2)C(=O)N2CCCCC2)C=CC=C1 | C24H32N2O3
